US05744480
Under a nitrogen atmosphere, in a round-bottom flask were placed 15 g (79 mmol) of 3-trifluoromethoxybenzaldehyde, 80 mL of ethanol, 11 g (0.26 mol)of ammonium acetate and 12.6 mL (79 mmol) of methyl 4-nitrobutyrate, and the mixture was heated at reflux for 6 hours. After cooling to room temperature, the mixture was concentrated. The remaining material was stirred with ca. 200 mL of CHCl3 for 30 minutes, filtered and concentrated. The residue purified by flash column chromatography, elutingwith 1:49 methanol/chloroform followed by 1:19 methanol/chloroform to obtain 24 g of 5-nitro-6-(3-trifluoromethoxyphenyl)piperidin-2-one.

reactant | 3-trifluoromethoxybenzaldehyde | 79 mmol, 15 g | FC(OC=1C=C(C=O)C=CC1)(F)F | C8H5F3O2
reactant | ammonium acetate | 0.26 mol, 11 g | C(C)(=O)[O-].[NH4+]
reactant | methyl 4-nitrobutyrate | 79 mmol, 12.6 mL | [N+](=O)([O-])CCCC(=O)OC | C5H9NO4
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 5-nitro-6-(3-trifluoromethoxyphenyl)piperidin-2-one | 24 g | [N+](=O)([O-])C1CCC(NC1C1=CC(=CC=C1)OC(F)(F)F)=O | C12H11F3N2O4
